US07183274B2
Formic acid (2-formylamino-5-methoxybenzyl)ester
A solution of 7.00 g of (2-amino-5-methoxyphenyl)methanol, 9.8 ml of formic acid cyanomethyl ester and 0.05 g of 4-N,N-(dimethylamino)pyridine in 30 ml of anhydrous tetrahydrofuran was heated for 5 hours under reflux. The solution was then concentrated by evaporation in vacuo and the residue was taken up in 100 ml of ethyl acetate. Crystals formed on cooling the solution to 0° C., which were suction filtered, washed with methanol, and dried in vacuo. 7.20 g (75% of theory) of the title compound were thereby obtained.

reactant | (2-amino-5-methoxyphenyl)methanol | 7.00 g | NC1=C(C=C(C=C1)OC)CO | C8H11NO2
reactant | formic acid cyanomethyl ester | 9.8 ml | C(#N)COC=O | C3H3NO2
reactant | tetrahydrofuran | 30 ml | O1CCCC1 | C4H8O
product | Formic acid (2-formylamino-5-methoxybenzyl)ester | C(=O)NC1=C(COC=O)C=C(C=C1)OC | C10H11NO4
